US06476268B1
Batchwise Synthesis of N-benzyl-2-methylhexylamine
100 ml of methanol and 100 mmol of 2-heptylamine are initially taken and 100 mmol of benzaldehyde are added dropwise at 24° C. in the course of 15 minutes. Stirring is effected for 6 hours at 24° C., the completeness of the iminization is checked by GC, 0.5 g of Pd/C (10% by weight) is added and the crude mixture is hydrogenated with hydrogen for 5 hours at atmospheric pressure. A sample is taken and the composition is investigated by GC analysis.

reactant | 2-heptylamine | 100 mmol | CC(CCCCC)N | C7H17N
reactant | benzaldehyde | 100 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrogen | [H][H] | H2
reactant | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | N-benzyl-2-methylhexylamine | C(C1=CC=CC=C1)NCC(CCCC)C | C14H23N
